US05665718
1.3 g (7.5 mmol) of chloroacetic anhydride. were added to a solution of 1.8 g (6.2 mmol) of (E)- and/or (Z)-3-(amino-hydroxyimino-methyl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 50 ml of N,N-dimethylformamide and the mixture was stirred at room temperature for 1.5 hours. Subsequently, it was heated to 105° for 2 hours. The solution was evaporated and the residue was partitioned between 2N sodium hydroxide solution and methylene chloride. The aqueous phase was back-washed with methylene chloride and the organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was crystallized from methylene chloride/ethanol. There were obtained 1.75 g (81%) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as a beige powder of m.p. 205.5°-206.5°.

reactant | chloroacetic anhydride | 7.5 mmol, 1.3 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | (Z)-3-(amino-hydroxyimino-methyl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | N\C(\C=1N=CN2C1CN(C(C1=C2C=CC=C1F)=O)C)=N/O | C13H12FN5O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.75 g, 81% | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1F)=O)C | C15H11ClFN5O2
